US09403798B2
4-[4-(4-Chlorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one
To a dichloromethane solution (1.0 mL) of 4-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one (14 mg, 0.03 mmol) synthesized in Reference Synthesis Example 91a, trifluoroacetic acid (0.5 mL) was added and the resultant mixture was stirred at room temperature for 3 hours. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and to the resultant concentrate, water and saturated sodium hydrogen carbonate aqueous solution were added. A deposited solid was washed with water and was dried under reduced pressure to obtain the title compound (7.4 mg, yield: 55%).

reactant | 4-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one | 0.03 mmol, 14 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(N(C=N1)CN1N=C(C=C1)C(F)(F)F)=O)O | C19H18ClF3N6O2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 4-[4-(4-Chlorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one | 7.4 mg, yield: 55% | ClC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CN1N=C(C=C1)C(F)(F)F)=O | C19H16ClF3N6O
